US09056858B2
Synthesis of 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid [1-(3-bromo-phenyl)-cyclopropyl]-amide (13)
To a solution of 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid (0.500 g, 1.94 mmol), 1-(3-bromophenyl)cyclopropanamine (453 mg, 2.14 mmol) and N,N-diisopropylethylamine (1.73 mL, 9.72 mmol) in DMF (18 mL) is added TBTU (0.780 g, 2.43 mmol). After 2 hours, the mixture is concentrated in vacuo, dissolved in ethyl acetate (200 mL), and washed with 2N sodium hydroxide (3×100 mL), saturated aqueous ammonium chloride (2×100 mL), saturated aqueous sodium bicarbonate (100 mL), brine (100 mL). The organic layer is dried over MgSO4, filtered through a pad of silica gel eluting with ethyl acetate (3×100 mL), and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with a gradient of 50-70% ethyl acetate in heptane to give a solid that is triturated with methylene chloride to afford the title compound as a solid.

reactant | 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid | 1.94 mmol, 0.500 g | FC1=CC=C(C=C1)N1N=CC2=C1C=NC=C2C(=O)O | C13H8FN3O2
reactant | 1-(3-bromophenyl)cyclopropanamine | 2.14 mmol, 453 mg | BrC=1C=C(C=CC1)C1(CC1)N | C9H10BrN
reactant | N,N-diisopropylethylamine | 9.72 mmol, 1.73 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | TBTU | 2.43 mmol, 0.780 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 18 mL | CN(C)C=O | C3H7NO
product | 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid [1-(3-bromo-phenyl)-cyclopropyl]-amide | BrC=1C=C(C=CC1)C1(CC1)NC(=O)C=1C2=C(C=NC1)N(N=C2)C2=CC=C(C=C2)F | C22H16BrFN4O
